US06586617B1
Synthesis of N-Acetyl-4′-methoxy-2′-nitro-p-toluenesulfonanilide (Compound No.213)
To a suspension of sodium hydride (60%, 0.08 g (2.00 mmol)) in DMF (3.0 ml), 4′-methoxy-2′-nitro-p-toluenesulfonanilide (0.50 g (1.55 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, acetic anhydride (0.20 ml (2.12 mmol)) was added dropwise. After one hour's stirring at room temperature, water was poured into the reaction mixture and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. Crystals separated was added to diethyl ether, filtered and washed to give 0.51 g (90%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 2.00 mmol, 0.08 g | [H-].[Na+]
reactant | 4′-methoxy-2′-nitro-p-toluenesulfonanilide | 1.55 mmol, 0.50 g | COC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-] | C14H14N2O5S
reactant | acetic anhydride | 2.12 mmol, 0.20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N-Acetyl-4′-methoxy-2′-nitro-p-toluenesulfonanilide | 0.51 g, 90% | C(C)(=O)N(C1=C(C=C(C=C1)OC)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C | C16H16N2O6S
